US08022063B2
4-Bromo-2-[3-(4-methylbenzyl)-2,4-dioxothiazolidin-5-ylmethyl]phenoxyacetic acid.
Prepared from 4-methylbenzylbromide and 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester according to GP13, GP14 and GP16 (yield: 14 mg, 21%): LC/MS (an10p8): Rt 2.5 min, m/z 462 [M−H]−. 1H NMR (DMSO-d6): δ 2.98-3.07 (m, 1H), 3.53-3.59 (m, 1H), 4.63 (s, 2H), 4.74 (s, 2H), 5.07-5.13 (m, 1H), 6.89-6.91 (m, 1H), 7.11-7.16 (m, 4H), 7.38-7.43 (m, 2H), 13.11 (br s, 1H).

reactant | 4-methylbenzylbromide | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)\C=C/1\C(NC(S1)=O)=O)=O | C14H12BrNO5S
product | 4-Bromo-2-[3-(4-methylbenzyl)-2,4-dioxothiazolidin-5-ylmethyl]phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CC1C(N(C(S1)=O)CC1=CC=C(C=C1)C)=O | C20H18BrNO5S
